*model = BSIMSOI (FD)
*Berkeley Spice Compatibility 
*
* SOI NMOSFET, tied body simulation

vd d 0 dc 0.05
vs s 0 dc 0
ve e 0 dc 0
vg g 0 dc 3
vb b 0 dc 0

m1 d g s e b n1 w=10u l=0.25u

.option gmin=1e-25 itl1=500
.dc vg 0 1.5 0.01 vb -0.3 0.5 0.1
.print dc i(vs)
.include nmosfd.mod
